US07994185B2
N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-chlorophenyl}-2,6-difluorobenzenesulfonamide
In a pressure vessel was placed N-{2-Chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide (300 mg, 0.513 mmol) and NH4OH (2 mL) and 1,4-dioxane (2 mL) were added. The vessel was sealed and heated at 100° C. for 18 h. The reaction mixture was cooled, concentrated onto silica and the residue was column chromatographed to give the title compound (0.10 g, 35% yield). 1H NMR (400 MHz, DMSO-d6) d ppm 10.81 (br. s., 1H), 7.81 (d, J=5.3 Hz, 1H), 7.62-7.73 (m, 1H), 7.39-7.52 (m, 2H), 7.28-7.34 (m, 1H), 7.21 (t, J=9.1 Hz, 2H), 6.55 (s, 2H), 5.44 (d, J=5.3 Hz, 1H), 3.70 (t, J=4.7 Hz, 4H), 3.44 (t, J=4.6 Hz, 4H). MS (ES+): 566 [M+H]+.

reactant | N-{2-Chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide | 0.513 mmol, 300 mg | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)Cl)N1CCOCC1)NS(=O)(=O)C1=C(C=CC=C1F)F | C23H17Cl2F2N5O3S2
reactant | NH4OH | 2 mL | [NH4+].[OH-]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-chlorophenyl}-2,6-difluorobenzenesulfonamide | 0.10 g, 35% yield | NC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)Cl | C23H19ClF2N6O3S2
